US07396958B2
N-[4-chloro-2-(2,6-difluorobenzyl)phenyl]-N-[2-(1H-imidazol-1-yl)ethyl]-3,4-dimethoxybenzenesulfonamide (compound 271)
To 2 ml of dimethylformamide are added, at room temperature, 51 mg of sodium hydride at 50% in oil, followed by 72 mg of imidazole. After 30 minutes at this temperature, 0.4 g of ethyl N-(2-bromoethyl)-N-[2-(2,6-difluorobenzyl)-4-chlorophenyl]-3,4-dimethoxybenzenesulfonamide dissolved in 5 ml of dimethylformamide is introduced. The reaction medium is left for 18 hours at room temperature and then taken up in ethyl acetate and washed with water. The organic phase is dried over anhydrous sodium sulfate and concentrated. The residue is chromatographed on a column of silica gel, eluting with a 97/3 (v/v) toluene/ethyl acetate mixture to give 0.082 g of the expected product.

reactant | sodium hydride | 51 mg | [H-].[Na+]
reactant | imidazole | 72 mg | N1C=NC=C1 | C3H4N2
reactant | ethyl N-(2-bromoethyl)-N-[2-(2,6-difluorobenzyl)-4-chlorophenyl]-3,4-dimethoxybenzenesulfonamide | 0.4 g | C(C)C1=C(C=CC(=C1OC)OC)S(=O)(=O)N(C1=C(C=C(C=C1)Cl)CC1=C(C=CC=C1F)F)CCBr | C25H25BrClF2NO4S
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-[4-chloro-2-(2,6-difluorobenzyl)phenyl]-N-[2-(1H-imidazol-1-yl)ethyl]-3,4-dimethoxybenzenesulfonamide | 0.082 g | ClC1=CC(=C(C=C1)N(S(=O)(=O)C1=CC(=C(C=C1)OC)OC)CCN1C=NC=C1)CC1=C(C=CC=C1F)F | C26H24ClF2N3O4S
